US09290454B2
A mixture of (R)-5-(6-((6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid (10 mg, 0.019 mmol), cyclopropanesulfonamide (3.43 mg, 0.028 mmol, 1.50 equiv.), DMAP (4.61 mg, 0.038 mmol, 2.0 equiv.) and EDC (7.23 mg, 0.038 mmol, 2.0 equiv.) in DCM (1 mL) was stirred at room temperature overnight. The residue was purified by column chromatography on silica gel eluting with 0-3% CH2Cl2/MeOH to give 7.8 mg of (R)-3-(5-(cyclopropanesulfonamido)-5-oxopentyl)-N-(6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxamide as a white solid. LCMS [M+H]+=634. 1H NMR (DMSO, 500 MHz) δ ppm: 8.18 (dd, J=8.0, 3.5 Hz, 2H), 7.91 (d, J=8.0 Hz, 1H), 7.43-7.36 (m, 4H), 7.26 (t, J=7.0 Hz, 1H), 7.00 (t, J=8.5 Hz, 2H), 6.66 (s, 1H), 5.26-5.22 (m, 1H), 2.85-2.74 (m, 3H), 2.30-2.15 (m, 4H), 2.09 (t, J=7.0 Hz, 2H), 2.00-1.96 (m, 2H), 1.91-1.76 (m, 2H), 1.45-1.39 (m, 4H), 1.10-1.00 (m, 4H).

reactant | (R)-5-(6-((6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid | 0.019 mmol, 10 mg | FC=1C=C2CCC[C@H](C2=CC1)NC(=O)C=1C=C2C=C(N(C(C2=CC1)=O)C1=CC=C(C=C1)F)CCCCC(=O)O | C31H28F2N2O4
reactant | cyclopropanesulfonamide | 0.028 mmol, 3.43 mg, 1.50 equiv. | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | EDC | 0.038 mmol, 7.23 mg, 2.0 equiv.
catalyst | DMAP | 0.038 mmol, 4.61 mg, 2.0 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(5-(cyclopropanesulfonamido)-5-oxopentyl)-N-(6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxamide | 7.8 mg | C1(CC1)S(=O)(=O)NC(CCCCC=1N(C(C2=CC=C(C=C2C1)C(=O)N[C@@H]1CCCC2=CC(=CC=C12)F)=O)C1=CC=C(C=C1)F)=O | C34H33F2N3O5S
